US06225310B1
a) (R)-N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(1-phenylethyl)thiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and D-α-methylbenzyl isothiocyanate by a procedure analogous to the procedure described in example 3-a (yield 96% impure product); 1H-NMR (DMSO-d6): δ1.46 (d, 3H, CH3), 5.36 (quint, 1H, CH), 6.45 (br s, 2H, NH2), 6.64 (s, 1H, H-4), 7.2-7.4 (m, 5H, ArH), 8.53 (br d, 1H, NH), 11.3 (br s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | D-α-methylbenzyl isothiocyanate | CC(C1=CC=CC=C1)N=C=S | C9H9NS
product | (R)-N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(1-phenylethyl)thiourea | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)N[C@H](C)C1=CC=CC=C1 | C13H14ClN3O2S3
